US08754089B2
The white solid, 4,6-dichloropyrimidine-5-carbonitrile (5.82 g, 33.5 mmol) was dissolved in THF (66.9 mL) in a 500 mL round-bottom flask and to the mixture was bubbled through ammonia gas (0.570 g, 33.5 mmol) for 3 min in 10 min intervals with stirring. After 50 min, a white precipitate (ammmonium chloride) was filtered and the solid was washed with THF (100 mL). To the filtrate was added silica gel and concd under reduced pressure. The mixture was purified by silica gel column chromatography on a 120 g of Redi-Sep™ column using 0 to 100% gradient of EtOAc in hexane over 27 min and then 100% isocratic of EtOAc in hexane for 20 min as eluent to give 4-amino-6-chloropyrimidine-5-carbonitrile as an off-white solid. The off-white solid was suspended in EtOAc-hexane (1:1, 20 mL), filtered, washed with EtOAc-hexane (1:1, 30 mL), and dried to give 4-amino-6-chloropyrimidine-5-carbonitrile as a white solid: 1H NMR (500 MHz, DMSO-d6) δ ppm 7.91-8.77 (3 H, m); Mass Spectrum (ESI) m/e=154.9 (M+1).

reactant | 4,6-dichloropyrimidine-5-carbonitrile | 33.5 mmol, 5.82 g | ClC1=NC=NC(=C1C#N)Cl | C5HCl2N3
reactant | ammonia | 33.5 mmol, 0.570 g | N | H3N
solvent | THF | 66.9 mL | C1CCOC1 | C4H8O
product | 4-amino-6-chloropyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
